US05663162
To a suspension of 0.379 g (1.34 mmole) of 7-(phthalimido)methylimidazo[5,1-b]thiazole in 15 ml of ehtanol was added 0.063 ml (2.0mmle) of anhydrous hydrazine, and the mixture was heated under reflux for 1 hour. The reaction mixture was ice-cooled, and the resulting crystalline products were removed by filtration. After the filtrate was concentrated under reduced pressure, a small amount of dichloromethane was added, and insolubles were removed by filtration. The filtrate was concentrated under reduced pressure to give crude 7-aminomethylimidazo[5,1-b]thiazole.

reactant | 7-(phthalimido)methylimidazo[5,1-b]thiazole | 1.34 mmole, 0.379 g | C1(C=2C(C(N1CC=1N=CN3C1SC=C3)=O)=CC=CC2)=O | C14H9N3O2S
reactant | hydrazine | 0.063 ml | NN | H4N2
product | 7-aminomethylimidazo[5,1-b]thiazole | NCC=1N=CN2C1SC=C2 | C6H7N3S
